US05043142
To a solution of 472 mg (11.8 mmol) of sodium hydride contained at 60% in mineral oil in dry dimethylformamide (50 ml) was added 500 mg (4.71 mmol) of diethylene glycol in an atmosphere of argon, and the mixture was allowed to react at 40°-50° C. for 30 min. Then, 2.96 g (10.4 mmol) of 4-bromo-2-chlorobenzyl bromide was added, and the mixture was reacted at room temperature for 16 hours. To the reaction solution at 0° C. was added a saturated aqueous solution of ammonium chloride followed by extraction with ethyl acetate. The organic layer was washed with water and then concentrated under reduced pressure. The residue thus obtained was subjected to silica gel column chromatography for separation and purification. Elution with ethyl acetatehexane (1:3) yielded 2.10 g (4.09 mmol) of 1,9-bis(4-bromo-2-chlorophenyl)-2,5,8-trioxanonane.

reactant | sodium hydride | 11.8 mmol, 472 mg | [H-].[Na+]
reactant | diethylene glycol | 4.71 mmol, 500 mg | C(COCCO)O | C4H10O3
reactant | 4-bromo-2-chlorobenzyl bromide | 10.4 mmol, 2.96 g | BrC1=CC(=C(CBr)C=C1)Cl | C7H5Br2Cl
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
product | 1,9-bis(4-bromo-2-chlorophenyl)-2,5,8-trioxanonane | 4.09 mmol, 2.10 g | BrC1=CC(=C(C=C1)COCCOCCOCC1=C(C=C(C=C1)Br)Cl)Cl | C18H18Br2Cl2O3
